US06479490B2
A mixture of 3-(1-methylindol-3-yl)-4-(3-aminophenyl)-1H-pyrrole-2,5-dione (100 mg, 0.32 mmol) and imidazole-2-carboxaldehyde (40 mg, 0.42 mmol) in MeOH (8 mL) was stirred for 15 min., and then NaCNBH3 (40.2 mg, 0.64 mmol) was added. After stirring the reaction mixture overnight the volatiles were removed under vacuo and the residue was purified by preparatory TLC (3% MeOH/CH2Cl2) to afford 3-(1-methylindol-3-yl)-4-[3-(imidazol-2-ylmethylamino)phenyl]-1H-pyrrole-2,5-dione (24.8 mg, 20 %). LC/MS: M+ 397(94.2%).

reactant | 3-(1-methylindol-3-yl)-4-(3-aminophenyl)-1H-pyrrole-2,5-dione | 0.32 mmol, 100 mg | CN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CC(=CC=C1)N)=O)=O | C19H15N3O2
reactant | imidazole-2-carboxaldehyde | 0.42 mmol, 40 mg | N1C(=NC=C1)C=O | C4H4N2O
reactant | NaCNBH3 | 0.64 mmol, 40.2 mg | [BH3-]C#N.[Na+]
solvent | MeOH | 8 mL | CO | CH4O
product | 3-(1-methylindol-3-yl)-4-[3-(imidazol-2-ylmethylamino)phenyl]-1H-pyrrole-2,5-dione | 24.8 mg, 20 % | CN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CC(=CC=C1)NCC=1NC=CN1)=O)=O | C23H19N5O2
